US07504410B2
N-[3-[[5-bromo-4-[[3-[(3-thienylmethyl)amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide
To a solution of N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide (1.0 g, 1.97 mmol) in THF (30 mL) was added 2-thiophenecarboxaldehyde (184 mg, 1.64 mmol, 0.8 equiv.), triethylamine (362 mg, 3-6 mmol, 1.8 equiv.) and sodium triacetoxyborohydride (688 mg, 3.25 mmol, 1.6 equiv.). The resulting mixture was stirred overnight at room temperature under N2. The reaction was quenched by satuarated sodium bicarbonate (30 mL) and was extracted with ethyl acetate (3×30 mL). The reaction mixture was concentrated. Purification by HPLC chromatography using acetonitrile/water gave the title compound (310 mg).

reactant | N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide | 1.97 mmol, 1.0 g | NCCCNC1=NC(=NC=C1Br)NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C18H24BrN7O
reactant | 2-thiophenecarboxaldehyde | 1.64 mmol, 184 mg, 0.8 equiv. | S1C(=CC=C1)C=O | C5H4OS
reactant | triethylamine | 3-6 mmol, 362 mg, 1.8 equiv. | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 3.25 mmol, 688 mg, 1.6 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-[3-[[5-bromo-4-[[3-[(3-thienylmethyl)amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide | 310 mg | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)NC(=O)N1CCCC1)NCCCNCC1=CSC=C1 | C23H28BrN7OS
